US06747023B1
Lithium 5-(pyridin-4-yl)thiazole-2-carboxylate
In diethyl ether (20 ml) was dissolved 5-(pyridin-4-yl)thiazole (290 mg), followed by the dropwise addition of an n-hexane solution (1.54M, 1.20 ml) of n-butyl lithium at −78° C. The resulting mixture was stirred for 10 minutes. After a carbon dioxide gas was blown into the reaction mixture at −78° C. for 15 minutes, the reaction mixture was heated to room temperature. The reaction mixture was concentrated under reduced pressure, whereby the title compound (409 mg) was obtained as a pale brown foam.

reactant | 5-(pyridin-4-yl)thiazole | 290 mg | N1=CC=C(C=C1)C1=CN=CS1 | C8H6N2S
reactant | n-hexane | 1.54M, 1.20 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Lithium 5-(pyridin-4-yl)thiazole-2-carboxylate | N1=CC=C(C=C1)C1=CN=C(S1)C(=O)[O-].[Li+] | InChI=1S/C9H6N2O2S.Li/c12-9(13)8-11-5-7(14-8)6-1-3-10-4-2-6;/h1-5H,(H,12,13);/q;+1/p-1
